US08703797B2
7-Isopropyl-1,3-dimethyl-1H-pyrazolo[4,3-b]pyridine 4-oxide:
To 7-isopropyl-1,3-dimethyl-1H-pyrazolo[4,3-b]pyridine (prepared in the previous step, 2.50 g, 13.22 mmol) in 100 mL of chloroform was added 77% MCPBA (5.91 g, 26.44 mmol) at 0° C. The resulting solution was stirred at 90° C. for 3 hours. After cooling, it was neutralized with aq NaHCO3 and extracted with DCM thoroughly. The combined organic phases were then washed with water, brine and concentrated. Column chromatography using 5% 7N NH3 in MeOH/DCM as eluant afforded the title compound as a white solid. Spectroscopic data: 1H-NMR (300 MHz, CDCl3): δ ppm 1.37 (d, J=6.73 Hz, 6 H), 2.83 (s, 3 H), 3.60 (hept, J=6.73 Hz, 1 H), 4.21 (s, 3 H), 6.78 (d, J=6.30 Hz, 1 H), 8.01 (d, J=6.30 Hz 1 H).

reactant | 7-isopropyl-1,3-dimethyl-1H-pyrazolo[4,3-b]pyridine | C(C)(C)C1=C2C(=NC=C1)C(=NN2C)C | C11H15N3
reactant | MCPBA | 26.44 mmol, 5.91 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-Isopropyl-1,3-dimethyl-1H-pyrazolo[4,3-b]pyridine 4-oxide | C(C)(C)C1=C2C(=[N+](C=C1)[O-])C(=NN2C)C | C11H15N3O
